US05693320
To a solution of 2-acetyl-5-methacrylamidosalicylic acid (1 part by mole), dicyclohexyl carbodiimide (1.1 part by mole) in dry dichloromethane is added N-hydroxysuccinimide. To the solution is further added salicylic acid (1.1 part by mole). The solution is stirred at room temperature overnight. After the reaction, the precipitate including dicyclohexyl carbodiimide urea is removed by filtration. The solution is washed by distilled water three times, by an aqueous solution of 5% by weight of acetic acid three times, and further by distilled water three times. The solution is filtrated again to remove the precipitate. The solvent is removed by evaporation, and the residue is recrystallized to give salicyl 2-acetyl-5-methacrylamidosalicylate.

reactant | 2-acetyl-5-methacrylamidosalicylic acid | C(C)(=O)C1(C(C(=O)O)C=C(C=C1)NC(C(=C)C)=O)O | C13H15NO5
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | dicyclohexyl carbodiimide urea | NC(=O)N.C1(CCCCC1)N=C=NC1CCCCC1
solvent | dichloromethane | ClCCl | CH2Cl2
product | salicyl 2-acetyl-5-methacrylamidosalicylate | C(C)(=O)C1(C(C(=O)OCC=2C(O)=CC=CC2)C=C(C=C1)NC(C(=C)C)=O)O | C20H21NO6
